data/mechanism_extracts/MendeleevCommun/10.1016_j.mencom.2019.07.010.json
{"doi": "10.1016_j.mencom.2019.07.010", "journal": "MendeleevCommun", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of functionalized cyclopropanes (tetracyanocyclopropanes and dimethyl 2,2-dicyano-3-arylcyclopropane-1,1-dicarboxylates) from alkylidenemalononitriles and CH-acids using pyridinium bromide (PyHBr) as a redox mediator", "mechanism_family": ["mediator_anodic", "anion_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of bromide (from PyHBr) to Br2 acts as the mediator that brominates the CH-acid anion; cathodic reduction of pyridinium cation (PyH+) generates H2 and regenerates free pyridine that deprotonates the CH-acid", "key_intermediates": [{"name": "bromide anion / Br2 (anodically generated)", "smiles": "BrBr", "role": "reactive"}, {"name": "free pyridine (from cathodic reduction of PyH+)", "smiles": "c1ccncc1", "role": "reactive"}, {"name": "alpha-bromo CH-acid (intermediate A, CHBr-acid)", "smiles": null, "role": "transient"}, {"name": "pyridinium ylide B (Py+-C(-)(X)(X) from intermediate A and pyridine)", "smiles": null, "role": "reactive"}, {"name": "Michael adduct of ylide B with alkylidenemalononitrile leading to cyclopropane via intramolecular displacement of pyridine", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, Br- is oxidized to Br2; at the cathode, PyH+ is reduced to free pyridine and H2. Pyridine deprotonates the CH-acid, the resulting carbanion is brominated by Br2 to give an alpha-bromo CH-acid (A); pyridine displaces bromide to form pyridinium ylide B, which performs Michael addition to the alkylidenemalononitrile followed by intramolecular SN2 expelling pyridine to close the cyclopropane.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism proposed by analogy with prior chemical synthesis of cyclopropanes from pyridinium ylides and benzylidenemalononitriles (ref 13). No radical traps, KIE, CV, or DFT reported; supporting observations are bromine coloration at the anode and H2 evolution at the cathode. PyHBr acts as both bromide source and proton shuttle/mediator, and the reaction is run in undivided cell with graphite anode/iron cathode in MeCN."}
